US06277778B1
2-(cyclohexyldimethylsiloxy)indene
A solution of cyclohexyldimethylchlorosilane (84.62 g, 478.7 mmol) and imidazole (32.59 g, 478.7 mmol) in DMF (300 mL) was reacted with 2-indanone (57.62 g, 436.0 mmol). The reaction mixture was stirred overnight at room temperature, treated with water (300 mL) and extracted with Et2O (3×200 mL). The combined organic phases were washed with water (3×300 mL) and dried over sodium sulfate. The solvents were removed to leave an orange oil. Distillation under reduced pressure gave 81.67 g (68.8%) of the title compound as a yellow oil (bp. 140-142° C./0.2 mbar). 1H NMR (CDCl3, δ): 7.25-7.11 (m, 3H); 7.01 (td, 3J=7.3 Hz, 4J=1.4 Hz, 1H); 5.76 (d, 4J=0.7 Hz, 1H); 3.29 (s, 2H) 1.77-1.74 (m, 5H); 1.27-1.13 (m, 5H); 0.90 (m, 1H); 0.24 (s, 6H). 13C NMR (CDCl3, δ): 162.44; 145.24; 136.60; 126.47; 123.07; 122.37; 118.91; 106.32; 39.52; 27.69; 26.77; 26.46; 26.33; −3.55.

reactant | cyclohexyldimethylchlorosilane | 478.7 mmol, 84.62 g | C1(CCCCC1)[Si](Cl)(C)C | C8H17ClSi
reactant | imidazole | 478.7 mmol, 32.59 g | N1C=NC=C1 | C3H4N2
reactant | 2-indanone | 436.0 mmol, 57.62 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | water | 300 mL | O | H2O
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 2-(cyclohexyldimethylsiloxy)indene | 81.67 g, 68.8% | C1(CCCCC1)[Si](OC=1CC2=CC=CC=C2C1)(C)C | C17H24OSi
